US05597776
7-(4-Fluorophenyl)-2-methylpyrido[2,3-d]pyrimidine
15 ml of 40% strength by weight aqueous potassium hydroxide solution were slowly added to a suspension of 30.1 g (0.22 mol) of 4-amino-5-formyl-2-methylpyrimidine and 31.7 g (0.23 mol) of 4-fluoroacetophenone in 395 ml of methanol at 20°-25° C., a homogeneous solution being formed. After the mixture had been stirred for 20 hours at about 20° C., the solid formed was isolated and was recrystallized from ethanol. Yield: 50%; mp.>200° C.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 4-amino-5-formyl-2-methylpyrimidine | 0.22 mol, 30.1 g | NC1=NC(=NC=C1C=O)C | C6H7N3O
reactant | 4-fluoroacetophenone | 0.23 mol, 31.7 g | CC(=O)C1=CC=C(C=C1)F | C8H7FO
solvent | methanol | 395 ml | CO | CH4O
product | 7-(4-Fluorophenyl)-2-methylpyrido[2,3-d]pyrimidine | Yield: 50% | FC1=CC=C(C=C1)C=1C=CC2=C(N=C(N=C2)C)N1 | C14H10FN3
